US08865682B2
A mixture of methyl tetronate (2.0 g, 17.5 mmol) and pyrrolidine (4.0 mL, 48 mmol) in EtOH (20 mL) was heated at reflux for 2 hours. The mixture was cooled to room temperature, and evaporated to dryness. The resulting solid was recrystallized with benzene/hexanes to give 4-pyrrolidin-1-ylfuran-2(5H)-one as white crystals. Yield: 2.60 g, 96%.

reactant | methyl tetronate | 17.5 mmol, 2.0 g | CC1C(=O)COC1=O | C5H6O3
reactant | pyrrolidine | 48 mmol, 4.0 mL | N1CCCC1 | C4H9N
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-pyrrolidin-1-ylfuran-2(5H)-one | N1(CCCC1)C1=CC(OC1)=O | C8H11NO2
